US06835469B2
To a 500 mL round bottom flask was added, 2-chloroquinoline (4.7 g, 31 mmol), o-tolylphenyl boronic acid (4.7 g, 36 mmol) into 100 mL of ethylene glycol dimethyl ether. Sodium carbonate (8.9 g, 84 mmol) was dissolved into 50 mL of distilled water and added to the reaction mixture. After the addition of 0.1 mole % of triphenylphosphine (0.8 g) followed by 0.025 mol % of palladium(II) acetate (0.2 g). the reaction was heated under a nitrogen atmosphere for 4 hours. After cooling, additional ethyl acetate was added and the aqueous layer discarded. The organic layer was washed with a saturated solution of brine. The organic layer was dried over magnesium sulfate, filtered and the solvent removed by a rotary evaporator. The crude yellow oil was purified by column chromatography using a silica gel column and 20% ethyl acetate/hexanes as the eluants. The pure product was collected, combined and concentrated to give 2-(2-methylphenyl)quinoline (6.0 g, 75% yield).

reactant | 2-chloroquinoline | 31 mmol, 4.7 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | o-tolylphenyl boronic acid | 36 mmol, 4.7 g | C1(=C(C=CC=C1)C1=C(C=CC=C1)B(O)O)C | C13H13BO2
reactant | Sodium carbonate | 84 mmol, 8.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 0.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | palladium(II) acetate | 0.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
product | 2-(2-methylphenyl)quinoline | 6.0 g, 75% yield | CC1=C(C=CC=C1)C1=NC2=CC=CC=C2C=C1 | C16H13N
